US04078065
Dihydroergotamine-containing drop solution
60 mg of dihydroergotamine mesylate are added together with 1.5 g of cholesterin ethoxylated with approx. 24 mols of ethylene oxide a) to 60 cc of water adjusted to pH 4.1 with a buffer mixture of sodium acetate/acetic acid, and homogenized with a polytron homogenizer. The clear liquid is filled into bottles fitted with droppers.

reactant | dihydroergotamine mesylate | 60 mg | C[C@@]1(C(=O)N2[C@H](C(=O)N3CCC[C@H]3[C@@]2(O1)O)CC=4C=CC=CC4)NC(=O)[C@@H]5C[C@@H]6C7=CC=CC8=C7C(=CN8)C[C@H]6N(C5)C.CS(=O)(=O)O
reactant | cholesterin | 1.5 g | C[C@H](CCCC(C)C)[C@H]1CC[C@@H]2[C@@]1(CC[C@H]3[C@H]2CC=C4[C@@]3(CC[C@@H](C4)O)C)C | C27H46O
reactant | ethylene oxide | approx. 24 mols | C1CO1 | C2H4O
reactant | sodium acetate acetic acid | C(C)(=O)[O-].[Na+].C(C)(=O)O
solvent | water | 60 cc | O | H2O
product | Dihydroergotamine | C[C@@]1(C(=O)N2[C@H](C(=O)N3CCC[C@H]3[C@@]2(O1)O)CC=4C=CC=CC4)NC(=O)[C@@H]5C[C@@H]6C7=CC=CC8=C7C(=CN8)C[C@H]6N(C5)C | C33H37N5O5
